US07531547B2
5-(2-Isopropyl-4-methoxy-5-trimethylsilanylethynyl-phenoxy)-pyrimidine-2,4-diamine (0.75 g, 2 mmol) and Cesium Fluoride (0.46 g, 3 mmol) were added to 10 mL of dry THF under nitrogen, and the reaction mixture was stirred for 6 hours at room temperature. The reaction mixture was poured into water and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was chromatographed on 50 g of flash silica (3%-6% MeOH/CH2Cl2) to give 0.54 g of 5-(5-ethynyl-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine, MS (M+H)=299.

reactant | 5-(2-Isopropyl-4-methoxy-5-trimethylsilanylethynyl-phenoxy)-pyrimidine-2,4-diamine | 2 mmol, 0.75 g | C(C)(C)C1=C(OC=2C(=NC(=NC2)N)N)C=C(C(=C1)OC)C#C[Si](C)(C)C | C19H26N4O2Si
reactant | Cesium Fluoride | 3 mmol, 0.46 g | [F-].[Cs+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 5-(5-ethynyl-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 0.54 g | C(#C)C=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | C16H18N4O2
